US07723333B2
2-tert-Butyl-4-{[3-(2-chlorophenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 12 from 2-chlorophenol and 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate with a reaction time of 15 mins. The reaction mixture was evaporated and the crude product was purified by silica gel column chromatography (Horizons Biotage) using 15% EtOAc in petroleum ether 40-60° C. as eluent to give the title compound (0.085 g, 77%). 1H NMR (500 MHz CDCl3): δ 7.53-7.50 (m, 2H), 7.44-7.42 (m, 3H), 7.36 (dd, 1H), 7.19 (dt, 1H), 7.6.92 (dt, 1H), 6.83 (dd, 1H), 5.56 (t, 1H), 3.89 (t, 2H), 3.28 (m, 2H), 1.88-1.84 (m, 2H), 1.74 (s, 9H); 13C NMR (125 MHz CDCl3): δ 159.8, 154.2, 135.3, 131.8, 130.6, 129.8, 128.8, 127.9, 125.2, 123.4, 122.1, 113.7, 107.4, 66.7, 61.7, 41.8, 29.2, 27.8; Mass Spectrum M+H+ 449.

reactant | 2-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
product | 2-tert-Butyl-4-{[3-(2-chlorophenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.085 g, 77% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=C(C=CC=C1)Cl)C1=CC=CC=C1)(=O)=O | C22H25ClN2O4S
